US06001836
A mixture of bromoacetonitrile (0.70 mL, 10 mmol), 4-(3-methoxyphenyl)piperidine (1.74 g, 9.1 mmol) and K2CO3 (1.3 g) in MeCN was stirred at room temperature for 3 days. The reaction mixture was partitioned between CH2Cl2 and H2O, and the organic extract was dried (Na2SO4). The solvent was then removed in vacuo to afford [4-(3-methoxyphenyl)-1-piperidinyl]acetonitrile as an amber oil (2.03 g, 97%): MS (DCl) m/z 231 (MH+). Anal. Calcd. for C14H18N2O.0.5 H2O: C, 70.27; H, 8.00; N, 11.71. Found: C, 70.12; H, 7.67; N, 11.87.

reactant | bromoacetonitrile | 10 mmol, 0.70 mL | BrCC#N | C2H2BrN
reactant | 4-(3-methoxyphenyl)piperidine | 9.1 mmol, 1.74 g | COC=1C=C(C=CC1)C1CCNCC1 | C12H17NO
reactant | K2CO3 | 1.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeCN | CC#N | C2H3N
product | [4-(3-methoxyphenyl)-1-piperidinyl]acetonitrile | 2.03 g, 97% | COC=1C=C(C=CC1)C1CCN(CC1)CC#N | C14H18N2O
